US20010003782A1
3β-Hydroxy-4,4-dimethyl-5α-chola-8,14-dien-24-oic acid ethyl ester
3β-tert-Butyldimethylsilyloxy-4,4-dimethylchola-5,7-dien-24-oic acid methyl ester (4.0 g) is suspended in a mixture of 60 ml of 96% ethanol, 10.1 ml of benzene and 10.1 ml of concentrated hydrogen chloride acid and refluxed for 3.5 hours. After aqueous work-up and column chromatography followed by crystallization from ethanol the title compound (1.37 g) is isolated. Melting point: 122-124° C. 1H-NMR (CDCl3, 300 MHz): δ=5.35 (1H, s); 4.13 (2H, q); 3.25 (1H, m). 1.25 (3H, t). MS: Calculated: 428.7. Found 428.3.

reactant | 3β-tert-Butyldimethylsilyloxy-4,4-dimethylchola-5,7-dien-24-oic acid methyl ester | 4.0 g | COC(CC[C@@H](C)[C@H]1CC[C@H]2C3=CC=C4C([C@H](CC[C@]4(C)[C@H]3CC[C@]12C)O[Si](C)(C)C(C)(C)C)(C)C)=O | C33H56O3Si
reactant | benzene | 10.1 ml | C1=CC=CC=C1 | C6H6
reactant | hydrogen chloride | 10.1 ml | Cl | ClH
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 3β-Hydroxy-4,4-dimethyl-5α-chola-8,14-dien-24-oic acid ethyl ester | C(C)OC(CC[C@@H](C)[C@H]1CC=C2C=3CC[C@H]4C([C@H](CC[C@]4(C)C3CC[C@]12C)O)(C)C)=O | C28H44O3
